// Generated for: spectre
// Generated on: Feb 17 04:56:54 2024
// Design library name: CHARACTERIZATION
// Design cell name: FAST_BIAS_3
// Design view name: schematic
simulator lang=spectre
global 0
parameters IDS6=3e-06 IDS3=1e-05 VDS3=1.2 WF3=2e-05 L3=5e-07 NF3=1 \
    IDS2=8e-05 VDS2=0.5 WF2=2e-05 L2=3.5e-07 NF2=10 IDS1=1e-06 VDS1=0.5 \
    WF1=1e-05 L1=1e-06 NF1=10 WF6=1.5e-05 L6=3.5e-07 NF6=1 IDS4=0.0013 \
    VDS6=1.1 WF5=1e-05 L5=3.5e-07 NF5=50 IDS5=0.0026 VDS5=0.5 WF4=1e-05 \
    L4=3.5e-07 NF4=5 VDS4=0.8
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/config.scs" section=default
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/param.scs" section=3s
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/bip.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/cap.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/dio.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/mos.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/photo.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/res.scs" section=tm

// Library name: CHARACTERIZATION
// Cell name: BIAS_NMOS_3
// View name: schematic
subckt BIAS_NMOS_3
parameters IDS VDS WF L NF
    I0 (0 D) isource dc=IDS type=dc
    V1 (net6 0) vsource dc=VDS type=dc
    E0 (G 0 D net6) vcvs gain=1000
    M0 (D G 0 0) ne3 w=WF l=L as=(int(((NF)-1)/2.0 )*5.4e-07+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:2)*4.8e-07)*(WF)/(NF) \
         ad=(int((NF)/2.0 )*5.4e-07+(((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*4.8e-07))*(WF)/(NF) \
         ps=(int(((NF)-1)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2)-(NF)/2.0<-0.1)?1:2)*2*(4.8e-07+(WF)))/(NF) \
         pd=(int((NF)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*2*(4.8e-07+(WF)))/(NF) \
         nrs=2.7e-07/(WF) nrd=2.7e-07/(WF) m=(1)*(NF) par1=(1)*(NF) \
        xf_subext=0
ends BIAS_NMOS_3
// End of subcircuit definition.

// Library name: CHARACTERIZATION
// Cell name: BIAS_PMOS_3
// View name: schematic
subckt BIAS_PMOS_3
parameters WF L NF IDS VDS
    M0 (D G S S) pe3 w=WF l=L as=(int(((NF)-1)/2.0 )*5.4e-07+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:2)*4.8e-07)*(WF)/(NF) \
         ad=(int((NF)/2.0 )*5.4e-07+(((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*4.8e-07))*(WF)/(NF) \
         ps=(int(((NF)-1)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2)-(NF)/2.0<-0.1)?1:2)*2*(4.8e-07+(WF)))/(NF) \
         pd=(int((NF)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*2*(4.8e-07+(WF)))/(NF) \
         nrs=2.7e-07/(WF) nrd=2.7e-07/(WF) m=(1)*(NF) par1=(1)*(NF)
    E0 (S G net5 D) vcvs gain=1000
    I0 (D S) isource dc=IDS type=dc
    V0 (S 0) vsource dc=1.8 type=dc
    V1 (S net5) vsource dc=VDS type=dc
ends BIAS_PMOS_3
// End of subcircuit definition.

// Library name: CHARACTERIZATION
// Cell name: FAST_BIAS_3
// View name: schematic
I2 BIAS_NMOS_3 IDS=IDS3 VDS=VDS3 WF=WF3 L=L3 NF=NF3
I1 BIAS_NMOS_3 IDS=IDS2 VDS=VDS2 WF=WF2 L=L2 NF=NF2
I0 BIAS_NMOS_3 IDS=IDS1 VDS=VDS1 WF=WF1 L=L1 NF=NF1
I5 BIAS_PMOS_3 WF=WF6 L=L6 NF=NF6 IDS=IDS4 VDS=VDS6
I4 BIAS_PMOS_3 WF=WF5 L=L5 NF=NF5 IDS=IDS5 VDS=VDS5
I3 BIAS_PMOS_3 WF=WF4 L=L4 NF=NF4 IDS=IDS4 VDS=VDS4
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
