// Point Netlist Generated on: Feb  5 02:38:31 2024
// Generated for: spectre
// Design Netlist Generated on: Feb  5 02:38:31 2024
// Design library name: INV_HV
// Design cell name: inv_hv_tb
// Design view name: schematic
simulator lang=spectre
global 0
parameters temperature=27
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/config.scs" section=default
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/param.scs" section=3s
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/bip.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/cap.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/dio.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/mos.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/photo.scs" section=tm
include "/home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/spectre/v9_0_2/lpmos/res.scs" section=tm

// Library name: INV_HV
// Cell name: inv_hv
// View name: schematic
subckt inv_hv GNDHV IN OUT VDDHV VSUB
    M0 (OUT IN GNDHV VSUB) nedia w=40u l=1.25u m=(1)*(1) par1=(1)*(1) \
        extlay=0 xf_subext=0
    R0 (VDDHV OUT VSUB) rpp1k1_3 l=103.425u w=10u m=1 par1=1
ends inv_hv
// End of subcircuit definition.

// Library name: INV_HV
// Cell name: inv_hv_tb
// View name: schematic
I0 (0 VIN VOUT net1 0) inv_hv
V0 (net1 0) vsource dc=40 type=dc
V1 (VIN 0) vsource type=pulse val0=0 val1=18 period=200u delay=1u rise=1n \
        fall=1n width=100u
C0 (VOUT 0) capacitor c=100.0f
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=1m errpreset=liberal write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
